US06071925
(RS)-8-(7-Chloro-5-fluoro-1,2,3,4-tetrahydro-naphthalen-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p.>250° C. and MS: m/e=414.2 (M+H+) was prepared in accordance with the general method of example 11 from 7-chloro-5-fluoro-3,4-dihydro-1(2H)-naphthalenone oxime and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 7-chloro-5-fluoro-3,4-dihydro-1(2H)-naphthalenone oxime | ClC1=CC(=C2CCCC(C2=C1)=NO)F | C10H9ClFNO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(7-Chloro-5-fluoro-1,2,3,4-tetrahydro-naphthalen-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC1=CC(=C2CCCC(C2=C1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)F | InChI=1S/C23H25ClFN3O.ClH/c24-16-13-19-18(20(25)14-16)7-4-8-21(19)27-11-9-23(10-12-27)22(29)26-15-28(23)17-5-2-1-3-6-17;/h1-3,5-6,13-14,21H,4,7-12,15H2,(H,26,29);1H
